### PR TITLE
feat(LinearAlgebra/FiniteDimensional): add finrank_ker_add_finrank_of_surjective

### PR DESCRIPTION
**Pull request by JohnnyTeutonic**
Adds finrank_ker_of_surjective: for surjective linear maps, finrank of kernel equals domain dimension minus codomain dimension

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/LinearAlgebra/FiniteDimensional/Lemmas.lean [hunk 1]
```diff
@@ -138,6 +138,13 @@ theorem finrank_range_add_finrank_ker [FiniteDimensional K V] (f : V →ₗ[K] V
   rw [← f.quotKerEquivRange.finrank_eq]
   exact Submodule.finrank_quotient_add_finrank _
 
+
+theorem finrank_ker_of_surjective [FiniteDimensional K V] {f : V →ₗ[K] V₂}
+    (hf : Function.Surjective f) : finrank K (LinearMap.ker f) = finrank K V - finrank K V₂ := by
+  have := f.finrank_range_add_finrank_ker
+  rw [f.range_eq_top.mpr hf, finrank_top] at this
+  omega
```
Comment (themathqueen) [inline Mathlib/LinearAlgebra/FiniteDimensional/Lemmas.lean]:
```suggestion
  rw [← f.finrank_range_add_finrank_ker, f.range_eq_top_of_surjective hf]
  simp
```

File: Mathlib/LinearAlgebra/FiniteDimensional/Lemmas.lean [hunk 2]
```diff
@@ -138,6 +138,13 @@ theorem finrank_range_add_finrank_ker [FiniteDimensional K V] (f : V →ₗ[K] V
   rw [← f.quotKerEquivRange.finrank_eq]
   exact Submodule.finrank_quotient_add_finrank _
 
+
+theorem finrank_ker_of_surjective [FiniteDimensional K V] {f : V →ₗ[K] V₂}
+    (hf : Function.Surjective f) : finrank K (LinearMap.ker f) = finrank K V - finrank K V₂ := by
```
Comment (themathqueen) [inline Mathlib/LinearAlgebra/FiniteDimensional/Lemmas.lean]:
```suggestion
theorem finrank_ker_of_surjective [FiniteDimensional K V] {f : V →ₗ[K] V₂}
    (hf : Function.Surjective f) : finrank K f.ker = finrank K V - finrank K V₂ := by
```

**Comment by dagurtomas** [comment]
In it's current form, this lemma is stated as a subtraction of natural numbers, which we want to avoid. I think it would be fine to add this if it's stated as an addition, like the lemma above.

**Comment by JohnnyTeutonic** [comment]
Restated as addition per your suggestion. Also renamed to finrank_ker_add_finrank_of_surjective to match the convention.

File: Mathlib/LinearAlgebra/FiniteDimensional/Lemmas.lean [hunk 3]
```diff
@@ -138,6 +138,12 @@ theorem finrank_range_add_finrank_ker [FiniteDimensional K V] (f : V →ₗ[K] V
   rw [← f.quotKerEquivRange.finrank_eq]
   exact Submodule.finrank_quotient_add_finrank _
 
+theorem finrank_ker_add_finrank_of_surjective [FiniteDimensional K V] {f : V →ₗ[K] V₂}
+    (hf : Function.Surjective f) : finrank K f.ker + finrank K V₂ = finrank K V := by
+  have := f.finrank_range_add_finrank_ker
+  rw [f.range_eq_top_of_surjective hf, finrank_top] at this
+  linarith
```
Comment (themathqueen) [inline Mathlib/LinearAlgebra/FiniteDimensional/Lemmas.lean:145]:
```suggestion
  rw [← f.finrank_range_add_finrank_ker, f.range_eq_top_of_surjective hf]
  simp [add_comm]
```

But maybe this should be stated as `finrank K V₂ + ...` to match the statement above it?

Is there much point to this anyway? I feel like it's straightforward enough to inline it into whatever you're trying to prove.

Comment (JohnnyTeutonic) [reply Mathlib/LinearAlgebra/FiniteDimensional/Lemmas.lean:145]: Fair point — this is straightforward enough to inline. I'll close this; thanks for the review
